US09029536B2
B) 6,7,8,9-Tetrahydropyrido[2,3-b]indolizine
A solution of 2-(6-chlorohex-1-ynyl)pyridin-3-amine (300 mg) in CH3CN (3 ml) was added a solution of KOtBu (387 mg) in THF (3.5 mL) at 0.0° C. The mixture was stirred at 0° C. for 30 min. The mixture was quenched with water at 0° C. and extracted with AcOEt. The organic layer was separated, washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (170 mg).

reactant | 2-(6-chlorohex-1-ynyl)pyridin-3-amine | 300 mg | ClCCCCC#CC1=NC=CC=C1N | C11H13ClN2
reactant | KOtBu | 387 mg | CC(C)(C)[O-].[K+]
solvent | CH3CN | 3 ml | CC#N | C2H3N
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | 6,7,8,9-Tetrahydropyrido[2,3-b]indolizine | 170 mg | N1=CC=CC2=C1C=C1CCCCN21 | C11H12N2
